US05006520
In 60 ml of chloroform were dissolved 4.0 g of 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetic acid and 1.3 g of triethylamine. Thereto, 1.4 g of ethyl chlorocarbonate was added at -40° C. The mixture was stirred for 30 minutes. After 0.8 g of ethanolamine was added thereto, the temperature was gradually elevated to room temperature, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was extracted with chloroform. The organic layer was concentrated. The obtained white crude crystals were recrystallized from dioxane to give 2.4 g of N-(2-hydroxyethyl)-3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]-pyridin-1-yl]phenoxyacetamide, m.p. 161°-163° C.

reactant | 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetic acid | 4.0 g | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C=2C=C(OCC(=O)O)C=CC2 | C20H14FN3O3
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.4 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | ethanolamine | 0.8 g | C(O)CN | C2H7NO
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-hydroxyethyl)-3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]-pyridin-1-yl]phenoxyacetamide | 2.4 g | OCCNC(COC1=CC(=CC=C1)N1N=C(C=2C1=NC=CC2)C2=CC=C(C=C2)F)=O | C22H19FN4O3
